US04609650
16β-Ethyl-17β-glycoloyloxy-4-estren-3-one
A mixture of 5.0 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 5.0 g of potassium formate is refluxed in 100 ml of methanol for 4 hours. The solvent is distilled off under reduced pressure and water is added to the residue. The mixture is extracted with 150 ml of ethyl acetate, and the ethyl acetate layer is washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the resulting crystalline precipitate is recrystallized from diethyl ether-n-hexane (1:2) to give 3.2 g of the above-identified compound as colorless crystals.

reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 5.0 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | potassium formate | 5.0 g | C(=O)[O-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 16β-Ethyl-17β-glycoloyloxy-4-estren-3-one | 3.2 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CO)=O | C22H32O4
